US07279487B2
Step 10: Preparation of 1-{2-[[(dimethylamino)sulfonyl](methyl)amino]ethyl}-N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide.
A solution of N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-1-[2-(methylamino)ethyl]-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide (0.07 g, 0.16 mmol) in DM (3 mL) was treated with dimethylsulfamoyl chloride (0.44 g, 0.31 mmol) and Hunig's base (0.11 mL, 0.62 mmol) and stirred at room temperature for several hours. Additional dimethylsulfamoyl chloride was added after an hour. The reaction was injected directly onto a reverse phase HPLC column and the compound collected after eluting with a gradient of 95% water/acetonitrile to 5% water acetonitrile. The fractions were combined, evaporated and the crude oil was lyophilized from acetonitrile and water to give the product as a fluffy solid.

reactant | N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-1-[2-(methylamino)ethyl]-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | 0.16 mmol, 0.07 g | FC1=CC(=C(CNC(=O)C=2C(N(C3=CC=CN=C3C2O)CCNC)=O)C=C1)S(=O)(=O)C | C20H21FN4O5S
reactant | dimethylsulfamoyl chloride | 0.31 mmol, 0.44 g | CN(S(=O)(=O)Cl)C | C2H6ClNO2S
reactant | Hunig's base | 0.62 mmol, 0.11 mL | CCN(C(C)C)C(C)C | C8H19N
product | 1-{2-[[(dimethylamino)sulfonyl](methyl)amino]ethyl}-N-[4-fluoro-2-(methylsulfonyl)benzyl]-4-hydroxy-2-oxo-1,2-dihydro-1,5-naphthyridine-3-carboxamide | CN(S(=O)(=O)N(CCN1C(C(=C(C2=NC=CC=C12)O)C(=O)NCC1=C(C=C(C=C1)F)S(=O)(=O)C)=O)C)C | C22H26FN5O7S2
